* Extracted by KLayout with SG13G2 LVS runset on : 11/08/2026 10:27

.SUBCKT sg13g2_IOPadAnalog iovdd iovss pad padres vss
X$1 \$1 iovss padres pad iovdd sg13g2_SecondaryProtection
X$2 \$1 iovss iovdd pad sg13g2_Clamp_P20N0D
X$3 \$1 iovss iovdd pad sg13g2_DCPDiode
X$4 \$1 iovss pad sg13g2_Clamp_N20N0D
X$5 \$1 iovss pad sg13g2_DCNDiode
R$1 iovss \$1 ptap1 A=4273.4p P=593.62u
R$2 vss \$1 ptap1 A=23.85p P=159.6u
.ENDS sg13g2_IOPadAnalog

.SUBCKT sg13g2_SecondaryProtection \$1 minus core pad plus
D$1 \$1 core dantenna A=1.984p P=7.48u m=1
D$2 core plus dpantenna A=3.1872p P=11.24u m=1
R$3 pad core \$1 rppd w=1u l=2u ps=0u b=0 m=1
R$4 minus \$1 ptap1 A=9.0304p P=53.12u
.ENDS sg13g2_SecondaryProtection

.SUBCKT sg13g2_DCPDiode \$1 guard cathode anode
D$1 anode cathode dpantenna A=35.0028p P=58.08u m=2
R$3 guard \$1 ptap1 A=33.5104p P=197.12u
.ENDS sg13g2_DCPDiode

.SUBCKT sg13g2_DCNDiode \$2 anode cathode
D$1 \$2 cathode dantenna A=35.0028p P=58.08u m=2
R$3 anode \$2 ptap1 A=141.2964p P=221.76u
.ENDS sg13g2_DCNDiode

.SUBCKT sg13g2_Clamp_P20N0D \$1 iovss iovdd pad
M$1 iovdd \$6 pad iovdd sg13_hv_pmos L=0.6u W=266.4u AS=123.21p AD=123.21p
+ PS=316.72u PD=316.72u rfmode=0
R$41 iovdd \$6 iovdd rppd w=0.5u l=12.9u ps=0u b=0 m=1
R$42 iovss \$1 ptap1 A=67.0344p P=394.32u
.ENDS sg13g2_Clamp_P20N0D

.SUBCKT sg13g2_Clamp_N20N0D \$2 iovss pad
M$1 iovss \$4 pad \$2 sg13_hv_nmos L=0.6u W=88u AS=40.7p AD=40.7p PS=110.9u
+ PD=110.9u rfmode=0
R$21 iovss \$4 \$2 rppd w=0.5u l=3.54u ps=0u b=0 m=1
R$22 iovss \$2 ptap1 A=55.7736p P=328.08u
.ENDS sg13g2_Clamp_N20N0D
