* Extracted by KLayout with SG13G2 LVS runset on : 11/08/2026 10:32

.SUBCKT sg13g2_IOPadIn iovdd iovss p2c pad vdd vss
X$1 \$1 iovss pad sg13g2_DCNDiode
X$2 \$1 iovss pad iovdd vss p2c vdd sg13g2_LevelDown
X$3 \$1 iovss iovdd pad sg13g2_DCPDiode
R$1 iovss \$1 ptap1 A=5379.0466p P=677.04u
R$2 vss \$1 ptap1 A=21.981p P=147.74u
.ENDS sg13g2_IOPadIn

.SUBCKT sg13g2_DCNDiode \$2 anode cathode
D$1 \$2 cathode dantenna A=35.0028p P=58.08u m=2
R$3 anode \$2 ptap1 A=141.2964p P=221.76u
.ENDS sg13g2_DCNDiode

.SUBCKT sg13g2_DCPDiode \$1 guard cathode anode
D$1 anode cathode dpantenna A=35.0028p P=58.08u m=2
R$3 guard \$1 ptap1 A=33.5104p P=197.12u
.ENDS sg13g2_DCPDiode

.SUBCKT sg13g2_LevelDown \$1 iovss pad iovdd vss core vdd
X$1 \$1 iovss \$11 pad iovdd sg13g2_SecondaryProtection
M$1 core \$21 vss \$1 sg13_lv_nmos L=0.13u W=2.75u AS=0.935p AD=0.935p PS=6.18u
+ PD=6.18u rfmode=0
M$2 vss \$8 \$21 \$1 sg13_hv_nmos L=0.45u W=2.65u AS=0.901p AD=0.5035p PS=5.98u
+ PD=3.03u rfmode=0
M$3 \$21 \$7 vdd \$1 sg13_hv_nmos L=0.45u W=2.65u AS=0.5035p AD=0.901p PS=3.03u
+ PD=5.98u rfmode=0
M$4 \$7 \$11 iovss \$1 sg13_hv_nmos L=0.45u W=1.3u AS=0.442p AD=0.247p PS=3.28u
+ PD=1.68u rfmode=0
M$5 iovss \$7 \$8 \$1 sg13_hv_nmos L=0.45u W=1.3u AS=0.247p AD=0.442p PS=1.68u
+ PD=3.28u rfmode=0
M$6 core \$21 vdd vdd sg13_lv_pmos L=0.13u W=4.75u AS=1.615p AD=1.615p
+ PS=10.18u PD=10.18u rfmode=0
M$8 iovdd \$11 \$7 iovdd sg13_hv_pmos L=0.45u W=4.6u AS=1.219p AD=0.874p
+ PS=7.96u PD=5.36u rfmode=0
M$10 iovdd \$7 \$8 iovdd sg13_hv_pmos L=0.45u W=4.6u AS=0.874p AD=1.219p
+ PS=5.36u PD=7.96u rfmode=0
R$12 vss \$1 ptap1 A=2.019p P=14.06u
R$13 iovss \$1 ptap1 A=0.804p P=5.96u
.ENDS sg13g2_LevelDown

.SUBCKT sg13g2_SecondaryProtection \$1 minus core pad plus
D$1 \$1 core dantenna A=1.984p P=7.48u m=1
D$2 core plus dpantenna A=3.1872p P=11.24u m=1
R$3 pad core \$1 rppd w=1u l=2u ps=0u b=0 m=1
R$4 minus \$1 ptap1 A=9.0304p P=53.12u
.ENDS sg13g2_SecondaryProtection
